US05712267
(2S,4S)-4-Mercapto-2-[(3R)-1-(N-4-nitrobenzyloxycarbonylacetimidoyl)pyrrolidin-3-ylaminocarbonyl]-1-(4-nitrobenzyloxycarbonyl)pyrrolidine
Following a procedure similar to that described in Preparation 23(iii) and 23(iv), but using 0.76 g of (2S,4S)-4-(4-methoxybenzylthio)-1-(4-nitrobenzyloxycarbonyl)-2-[(3R)-pyrrolidin-3-ylaminocarbonyl]pyrrolidine hydrochloride and 0.33 g of N-(4-nitrobenzyloxycarbonyl)acetamidine, 0.45 g of the title compound was obtained as a powder.

reactant | (2S,4S)-4-(4-methoxybenzylthio)-1-(4-nitrobenzyloxycarbonyl)-2-[(3R)-pyrrolidin-3-ylaminocarbonyl]pyrrolidine hydrochloride | 0.76 g | Cl.COC1=CC=C(CS[C@H]2C[C@H](N(C2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C(=O)N[C@H]2CNCC2)C=C1
reactant | N-(4-nitrobenzyloxycarbonyl)acetamidine | 0.33 g | [N+](=O)([O-])C1=CC=C(COC(=O)NC(C)=N)C=C1 | C10H11N3O4
product | (2S,4S)-4-Mercapto-2-[(3R)-1-(N-4-nitrobenzyloxycarbonylacetimidoyl)pyrrolidin-3-ylaminocarbonyl]-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 0.45 g | S[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(=O)N[C@H]1CN(CC1)C(C)=NC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C27H30N6O9S
